US07129238B2
To a solution of 3,5-difluoroanisole (20 g) in THF (200 ml) was added pentamethyldiethylenetriamine (24.05 g). The mixture was cooled to −75° C. n-butyllithium (85 ml, 1.6 M in hexane) was added in such a way that the temperature did not exceed −67° C. The mixture was stirred for 2 h. Ethylglyoxalate (55.5 g, 50% in toluene) was added and the mixture was stirred for a further 2 h. Afterwards, the mixture was allowed to warm up to rt. Water was added and the mixture was made acidic (pH 3) with 25% HCl. The mixture was extracted with EtOAc. The organic phase was washed with 0.5 N HCl, dried, filtered and concentrated. The product was purified by flash chromatography (SiO2, cyclohexane/EtOAc 7:1) to give (RS)-(2,6-difluoro-4-methoxy-phenyl)-hydroxy-acetic acid ethyl ester (13.09 g). Colorless oil. MS 246.1 ([M]+)

reactant | 3,5-difluoroanisole | 20 g | FC=1C=C(C=C(C1)F)OC | C7H6F2O
reactant | pentamethyldiethylenetriamine | 24.05 g | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | n-butyllithium | 1.6 M, 85 ml | C(CCC)[Li]
reactant | Ethylglyoxalate | 55.5 g | C(C)C(C(=O)[O-])=O
reactant | HCl | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | (RS)-(2,6-difluoro-4-methoxy-phenyl)-hydroxy-acetic acid ethyl ester | 13.09 g | C(C)OC(C(O)C1=C(C=C(C=C1F)OC)F)=O | C11H12F2O4
